US07067686B1
In yet another particular embodiment, the metal salt hafnium tetrachloride is slurried in a halogenated hydrocarbon such as methylene chloride or an aromatic diluent such as toluene. The adduct mixture can then be chilled to from 0 to −30° C. Four equivalents of the (benzyl)nMgX2-n compound such as C6H5CH2MgBr in ether are then added to the mixture. The resulting slurry can then be stirred for 30 min to several hours at this temperature. The solids can then be collected by filtration, and the filtrate evaporated. The resulting product can then be washed with a minimum amount of a hydrocarbon such as hexane or pentane. This procedure can afford from 62 to 90% yield of tetrabenzyl hafnium product.

reactant | hafnium tetrachloride | [Cl-].[Cl-].[Cl-].[Cl-].[Hf+4]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | C6H5CH2MgBr | C1(=CC=CC=C1)C[Mg]Br
solvent | ether | CCOCC | C4H10O
product | tetrabenzyl hafnium | 62 to 90% yield | C(C1=CC=CC=C1)[Hf](CC1=CC=CC=C1)(CC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/4C7H7.Hf/c4*1-7-5-3-2-4-6-7;/h4*2-6H,1H2;
